US05380713
A: Ethyl 2-[2-Amino-4,5-diphenyl-1-imidazolyl]acetate
Ethyl bromoacetate (3.50 mL, 31.87 mmol) was added to a solution of 2-amino-4,5-diphenylimidazole (7.50 g, 31.87 mmol) and 1,8-diazobicyclo[5.4.0]undec-7-ene (4.80 mL, 31.87 mmol) in anhydrous tetrahydrofuran (150 mL). The mixture was heated to about 75° C. for about 2 hours and at about 65° C. for about 16 hours before it was cooled to room temperature and treated with brine. After about 15 minutes, ethyl acetate was added and the organic phase was separated, washed with saturated sodium bicarbonate solution and brine prior to drying and solvent concentration to one quarter volume. The precipitate which formed on concentration of the solvent was collected by suction-filtration. There was isolated 3.67 g (36%) of the title compound as an off-white solid. An additional 2.56 g (25%) of the title compound was isolated from the filtrate on concentration, m.p. 173°-175° C.; 1H NMR (CD3SOCD3) δ 7.46-7.36 (m, 3H), 7.32-7.29 (m, 2H), 7.25-7.21 (m, 2H), 7.17-7.04 (m, 2H), 7.03-6.99 (m, 1H), 5.78 (s, 2H), 4.36 (s, 2H), 4.03 (q, J=7.1 Hz, 2H), 1.08 (t, J=7.1 Hz, 3H); 13C NMR (CD3SOCD3) ppm 170.07, 151.51, 137.08, 133.74, 133.02, 132.50, 130.74, 130.01, 129.59, 128.55, 127.26, 127.06, 124.83, 62.62, 45.71, 15.69; IR (KBr, cm-1) 3410, 3390, 3062, 2980, 1744, 1660, 1562, 1476, 1340, 1240, 1222, 1212, 1026, 772, 700; MS m/z (MH+) calcd 322.1556, obsd 322.1555.

reactant | Ethyl bromoacetate | 31.87 mmol, 3.50 mL | BrCC(=O)OCC | C4H7BrO2
reactant | 2-amino-4,5-diphenylimidazole | 31.87 mmol, 7.50 g | NC=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C15H13N3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | Ethyl 2-[2-Amino-4,5-diphenyl-1-imidazolyl]acetate | 3.67 g, 36% | NC=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)CC(=O)OCC | C19H19N3O2
